### PR TITLE
[Merged by Bors] - feat(NumberTheory/LSeries/Positivity): new file

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
We use the newly added positivity results for holomorphic functions to show that the L-function associated to a sequence `a : ℕ → ℂ` such that `a 1 > 0` and `a n` is nonnegative real for all `n` takes positive real values on the real axis.

From [EulerProducts](https://github.com/MichaelStollBayreuth/EulerProducts); this is needed to prove the non-vanishing at `s = 1` of Dirichlet L-functions of nontrivial quadratic characters. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/LSeries/Positivity.lean [hunk 1]
```diff
@@ -0,0 +1,129 @@
...
+open Complex
+
+namespace LSeries
+
+lemma term_nonneg {a : ℕ → ℂ} {n : ℕ} (h : 0 ≤ a n) (x : ℝ) : 0 ≤ term a x n := by
+  rw [term_def]
+  rcases eq_or_ne n 0 with rfl | hn
+  · simp only [↓reduceIte, le_refl]
+  · simp only [hn, ↓reduceIte]
+    refine mul_nonneg h (inv_natCast_cpow_ofReal_pos hn x).le
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Positivity.lean:43]:
```suggestion
  rw [term_def]
  split_ifs with hn
  exacts [le_rfl, mul_nonneg h (inv_natCast_cpow_ofReal_pos hn x).le]
```

File: Mathlib/NumberTheory/LSeries/Positivity.lean [hunk 2]
```diff
@@ -0,0 +1,129 @@
...
+
+lemma term_pos {a : ℕ → ℂ} {n : ℕ} (hn : n ≠ 0) (h : 0 < a n) (x : ℝ) : 0 < term a x n := by
+  simp only [ne_eq, hn, not_false_eq_true, term_of_ne_zero]
+  refine mul_pos h <| inv_natCast_cpow_ofReal_pos hn x
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Positivity.lean:47]:
```suggestion
simpa only [term_of_ne_zero hn] using mul_pos h <| inv_natCast_cpow_ofReal_pos hn x
```

File: Mathlib/NumberTheory/LSeries/Positivity.lean [hunk 3]
```diff
@@ -0,0 +1,129 @@
...
+    0 ≤ (-1) ^ n * iteratedDeriv n (LSeries a) x := by
+  rw [LSeries_iteratedDeriv _ h, LSeries, ← mul_assoc, ← pow_add, Even.neg_one_pow ⟨n, rfl⟩,
+    one_mul]
+  refine tsum_nonneg fun k ↦ ?_
+  rw [LSeries.term_def]
+  split
+  · exact le_rfl
+  · refine mul_nonneg ?_ <| (inv_natCast_cpow_ofReal_pos (by assumption) x).le
+    induction n with
+    | zero => simp only [Function.iterate_zero, id_eq]; exact hn k
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Positivity.lean:64]:
```suggestion
    | zero => simpa only [Function.iterate_zero, id_eq] using hn k
```

File: Mathlib/NumberTheory/LSeries/Positivity.lean [hunk 4]
```diff
@@ -0,0 +1,129 @@
...
+lemma positive {a : ℕ → ℂ} (ha₀ : 0 ≤ a) (ha₁ : 0 < a 1) {x : ℝ} (hx : abscissaOfAbsConv a < x) :
+    0 < LSeries a x := by
+  rw [LSeries]
+  refine tsum_pos ?_ (fun n ↦ term_nonneg (ha₀ n) x) 1 <| term_pos one_ne_zero ha₁ x
+  exact LSeriesSummable_of_abscissaOfAbsConv_lt_re <| by simpa only [ofReal_re] using hx
+
+/-- If all values of `a : ℕ → ℂ` are nonnegative reals and `a 1`
+is positive, and the L-series of `a` agrees with an entire function `f` on some open
+right half-plane where it converges, then `f` is real and positive on `ℝ`. -/
+lemma positive_of_eq_differentiable {a : ℕ → ℂ} (ha₀ : 0 ≤ a) (ha₁ : 0 < a 1) {f : ℂ → ℂ}
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Positivity.lean:81]:
```suggestion
lemma positive_of_differentiable_of_eqOn {a : ℕ → ℂ} (ha₀ : 0 ≤ a) (ha₁ : 0 < a 1) {f : ℂ → ℂ}
```
(consistent with order of arguments)

File: Mathlib/NumberTheory/LSeries/Positivity.lean [hunk 5]
```diff
@@ -0,0 +1,129 @@
...
+    (hf : Differentiable ℂ f) {x : ℝ} (hx : abscissaOfAbsConv a < x)
+    (hf' : {s | x < s.re}.EqOn f (LSeries a)) (y : ℝ) :
+    0 < f y := by
+  have hxy : x < max x y + 1 := (le_max_left x y).trans_lt (lt_add_one _)
+  have hxy' : abscissaOfAbsConv a < max x y + 1 := hx.trans <| mod_cast hxy
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Positivity.lean:86]:
```suggestion
  have hxy' : abscissaOfAbsConv a < max x y + 1 := hx.trans_lt <| mod_cast hxy
```
(needed if non-strict inequality assumed in `hx`)

File: Mathlib/NumberTheory/LSeries/Positivity.lean [hunk 6]
```diff
@@ -0,0 +1,129 @@
...
+  have hys : (max x y + 1 : ℂ) ∈ {s | x < s.re} := by
+    simp only [Set.mem_setOf_eq, add_re, ofReal_re, one_re, hxy]
+  have hfx : 0 < f (max x y + 1) := by
+    rw [hf' hys]
+    convert positive ha₀ ha₁ hxy'
+    simp only [ofReal_add, ofReal_one]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Positivity.lean:92]:
```suggestion
    simpa only [hf' hys, ofReal_add, ofReal_one] using positive ha₀ ha₁ hxy'
```

File: Mathlib/NumberTheory/LSeries/Positivity.lean [hunk 7]
```diff
@@ -0,0 +1,129 @@
...
+  refine (hfx.trans_le <| hf.apply_le_of_iteratedDeriv_alternating (fun n _ ↦ ?_) ?_)
+  · have hs : IsOpen {s : ℂ | x < s.re} := by refine isOpen_lt ?_ ?_ <;> fun_prop
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Positivity.lean:94]: Seems overkill when one function is constant, maybe `continuous_re.isOpen_preimage _ isOpen_Ioi`?

File: Mathlib/NumberTheory/LSeries/Positivity.lean [hunk 8]
```diff
@@ -0,0 +1,129 @@
...
+    convert iteratedDeriv_alternating ha₀ hxy' n using 2
+    convert hf'.iteratedDeriv_of_isOpen hs n hys
+    simp only [ofReal_add, ofReal_one]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Positivity.lean:97]: Two chained `converts` seems convoluted, it can be golfed using `simpa`:
```
    simpa only [hf'.iteratedDeriv_of_isOpen hs n hys, ofReal_add, ofReal_one] using
      iteratedDeriv_alternating ha₀ hxy' n
```

File: Mathlib/NumberTheory/LSeries/Positivity.lean [hunk 9]
```diff
@@ -0,0 +1,129 @@
...
+positive, then `L a x` is positive real for all real `x` larger than `abscissaOfAbsConv a`. -/
+lemma LSeries_positive {a : ℕ → ℂ} (ha₀ : 0 ≤ a) (ha₁ : 0 < a 1) {x : ℝ}
+    (hx : LSeries.abscissaOfAbsConv a < x) :
+    0 < LSeries a x :=
+  LSeries.positive ha₀ ha₁ hx
+
+/-- If all values of a `ℂ`-valued arithmetic function `a` are nonnegative reals and `a 1`
+is positive, and the L-series of `a` agrees with an entire function `f` on some open
+right half-plane where it converges, then `f` is real and positive on `ℝ`. -/
+lemma LSeries_positive_of_eq_differentiable {a : ArithmeticFunction ℂ} (ha₀ : 0 ≤ (a ·))
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Positivity.lean:123]: (any changes to the `LSeries` lemma above can be propagated to here too)

**Comment by MichaelStollBayreuth** [comment]
Thanks @loefflerd for the review! I followed all the suggestions.

**Comment by loefflerd** [comment]
LGTM now, thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
